US04080505
In 15 ml of ethanol is dissolved 3.6 g of ethyl 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate, and under cooling with ice and stirring, a solution of 0.35 sodium hydroxide in 3.5 ml water is added. The mixture is kept under the same condition for 30 minutes, after which the solution is concentrated to dryness. The residue is dissolved in 10 ml of water, the solution is washed three times with ether, and then the solution is concentrated to dryness. The procedure yields 2.6 g of sodium 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate, as white amorphous substance.

reactant | ethyl 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate | 3.6 g | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C21H25ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 3.5 ml | O | H2O
product | sodium 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)-phenyl]propionate | 2.6 g | ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C.[Na+] | InChI=1S/C19H21ClO3.Na/c1-19(2,15-6-4-3-5-7-15)13-23-16-10-8-14(9-11-16)12-17(20)18(21)22;/h3-11,17H,12-13H2,1-2H3,(H,21,22);/q;+1/p-1
